US04774247
2-bromo-5-pyridylmethyl bromide (25 g) in a solution of acentonitrile was added dropwise to a solution of ethylenediamine (30 g) in acetonitrile (80 ml) at 0° C. After the reaction was stirred at room temperature for some time, the produced insoluble salts were filtrated off and then the filtrate was concentrated on a water bath at 40° C. to give N-(2-bromo-5-pyridylmethyl)ethylenediamine (22 g).

reactant | 2-bromo-5-pyridylmethyl bromide | 25 g | BrC1=NC=C(C=C1)CBr | C6H5Br2N
reactant | ethylenediamine | 30 g | C(CN)N | C2H8N2
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | N-(2-bromo-5-pyridylmethyl)ethylenediamine | 22 g | BrC1=NC=C(C=C1)CNCCN | C8H12BrN3
